US09024044B2
Step 7. Synthesis of 5-(2-benzyloxycarbonyl-2-ethyl-butyl)thiophene-2-carboxylic acid
To 5-(2-Benzyloxycarbonyl-2-ethyl-butyl)thiophene-2-carboxylic acid tert-butyl ester (24.9 g, 61.9 mmol) was added trifluoroacetic acid (20 mL), and the mixture was stirred at room temperature for 2 hours. The solvent was evaporated to give the title compound (quantitative)

reactant | 5-(2-Benzyloxycarbonyl-2-ethyl-butyl)thiophene-2-carboxylic acid tert-butyl ester | 61.9 mmol, 24.9 g | C(C)(C)(C)OC(=O)C=1SC(=CC1)CC(CC)(CC)C(=O)OCC1=CC=CC=C1 | C23H30O4S
solvent | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(2-benzyloxycarbonyl-2-ethyl-butyl)thiophene-2-carboxylic acid | C(C1=CC=CC=C1)OC(=O)C(CC1=CC=C(S1)C(=O)O)(CC)CC | C19H22O4S
